US05703075
The methyl ester of 5-chlorosalicylic acid (2.00 g, 10.7 mmol) is mixed with ethynyl morpholine (neat, 1.00 g, 9.00 mmol) dropwise. The reaction is exothermic. When the mixture cools, triethylamine (TEA, 1 drop) is added and the liquid mixture immediately crystallized. The mixture is chromatographed (flash, SiO2, CH2Cl2 /EtOH, 95:5) to yield 6-chloro-2-(4-morpholinyl)-4H-1benzopyran-4-one (1.07 g, 45%). Mp 194°-5° C.; IR (mull) 2949, 2946, 2869, 2855, 1640, 1615, 1566, 1464, 1450, 1437, 1345, 1246, 1118, 822, 787 cm-1 ; 1H-NMR (CDCl3, 200 MHz, δ) 8.11 (d, J=2.5 Hz, 1H), 7.49 (dd, J=8.7, 2.5 Hz, 1 H), 7.23 (d, J=8.7 Hz, 1H), 5.49 (s, 1H), 3.85-3.82 (m, 4 H), 3.53-3.50 (m, 4 H); UV (EtOH) λ max (ε) 217 (31,360), 230 (24,900), 245 sh (12,100), 2908 h (11,170), 301 (15,810) , 315 (16,070); Mass Spectrum: ions at m/e (relative intensity) 267 (35), 265 (100), 210 (24) 209 (22), 208 (74), 207 (31), 180 (47), 154 (27), 126 (19), 52 (21); High resolution MS calc'd. for C13H12NO3Cl: 265.0506. Found: 265.0512. Anal. calc'd. for C13H14NO3Cl: C, 58.77; H, 4.55; N, 5.27; Cl, 13.34. Found: C, 58.52; H, 4.66; N, 5.11; Cl, 13.58.

reactant | 5-chlorosalicylic acid | 10.7 mmol, 2.00 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | ethynyl morpholine | 9.00 mmol, 1.00 g | C(#C)N1CCOCC1 | C6H9NO
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | 6-chloro-2-(4-morpholinyl)-4H-1benzopyran-4-one | 1.07 g, 45% | ClC=1C=CC2=C(C(C=C(O2)N2CCOCC2)=O)C1 | C13H12ClNO3
